US07001899B2
Preparation of {6-(aminomethyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester (29):
A solution of {6-azidomethyl-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic methyl ester, 28, (0.46 g, 1.12 mmol) in THF (10 mL) and 5 drops of water is treated with triphenylphosphine (0.6 g, 2.25 mmol) at room temperature. The solution is stirred for 18 hours after which the solvent is solvent is removed in vacuo and the resulting residue is purified by HPLC to afford the desired product which is immediately used for the next step.

reactant | {6-azidomethyl-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic methyl ester | COC(CN1C(C(CC=C(C1)CN=[N+]=[N-])NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C20H20N6O4
reactant | triphenylphosphine | 2.25 mmol, 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | water | 5 drops | O | H2O
product | {6-(aminomethyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)CN)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C20H22N4O4
